US06004478
Preparation of 4-(trans-4-(trans-4-n-propyl-4-silacyclohexyl)cyclohexyl)-1-(2,2,3,3 ,3-pentafluoro-n-propoxy)-2-fluorobenzene
The general procedure of Example 1 was repeated using 1-bromo-3-fluoro-4-(t-butyldimethylsiloxy)benzene, 4-(4-n-propyl-4-phenyl-4-silacyclohexyl)cyclohexanone and 1-bromo-2,2,3,3,3-pentafluoro-n-propane, thereby obtaining the intended compound.

reactant | 1-bromo-3-fluoro-4-(t-butyldimethylsiloxy)benzene | BrC1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)F | C12H18BrFOSi
reactant | 4-(4-n-propyl-4-phenyl-4-silacyclohexyl)cyclohexanone | C(CC)[Si]1(CCC(CC1)C1CCC(CC1)=O)C1=CC=CC=C1 | C20H30OSi
reactant | 1-bromo-2,2,3,3,3-pentafluoro-n-propane | BrCC(C(F)(F)F)(F)F | C3H2BrF5
product | 4-(trans-4-(trans-4-n-propyl-4-silacyclohexyl)cyclohexyl)-1-(2,2,3,3 ,3-pentafluoro-n-propoxy)-2-fluorobenzene | C(CC)[Si@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)OCC(C(F)(F)F)(F)F)F | C23H32F6OSi
